US04504568
(b) 5-Acetamido-4-(3-aminophenylthio)-1-naphthol
5-Acetamido-4-(3-nitrophenylthio)-1-naphthol (1.0 g), iron pin dust (3.0 g), ethanol (25 ml) and concentrated hydrochloric acid (0.05 ml) were stirred and heated under reflux for 24 hours. Sodium carbonate (0.1 g) was heated to the hot mixture which was then filtered through keiselguhr. The filtrate was concentrated to dryness by rotary evaporation. The solid was stirred with a little ethanol and insoluble material was filtered off (0.2 g). The ethanol filtrate was diluted with water to give another 0.55 g of product. Total yield 0.75 g (82%).

reactant | 5-Acetamido-4-(3-nitrophenylthio)-1-naphthol | 1.0 g | C(C)(=O)NC1=C2C(=CC=C(C2=CC=C1)O)SC1=CC(=CC=C1)[N+](=O)[O-] | C18H14N2O4S
reactant | hydrochloric acid | 0.05 ml | Cl | ClH
reactant | Sodium carbonate | 0.1 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | iron | [Fe] | Fe
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 5-Acetamido-4-(3-aminophenylthio)-1-naphthol | 0.55 g | C(C)(=O)NC1=C2C(=CC=C(C2=CC=C1)O)SC1=CC(=CC=C1)N | C18H16N2O2S
